### PR TITLE
[WIP] Fix sorries in lintegral_rpow_abs and some related ones

### PR DESCRIPTION
**Pull request by jim-portegies**
Working on the sorries in the real interpolation theorem. Making a draft PR so @grunweg can keep track of progress

### CODE REVIEW

File: Carleson/ToMathlib/RealInterpolation/Misc.lean [hunk 1]
```diff
@@ -1340,6 +1336,9 @@ lemma value_lintegral_res₀ {j : Bool} {β : ℝ≥0∞} {γ : ℝ} (hγ : if j
 --   all_goals rw [ENNReal.ofReal_div_of_pos (by rw [abs_pos]; linarith),
 --       ← ENNReal.ofReal_rpow_of_pos this, ofReal_toReal hβ']
 
+-- TODO: This is the more natural/precise statement, but when t = ∞, we can only prove
+-- the inequality, see next lemma. As a consequence, this lemma is now actually not used.
+-- Shall we remove it?
```
Comment (Parcly-Taxel) [inline Carleson/ToMathlib/RealInterpolation/Misc.lean]: Leave it in – and I suggest actually using this lemma in the proof of `value_lintegral_res₂`, to show that when `t < ∞` the inequality becomes an equality.

**Comment by grunweg** [comment]
#426 (just merged) causes some conflicts: hopefully not too bad ones. (They should be mostly about removing unused simp lemmas --- so force-overwriting with your code and manually fixing those *should* also work.)

**Comment by fpvandoorn** [comment]
Feel free to mark is as a non-draft, and then I'll merge this (even if you haven't fixed all `sorry`s).

File: Carleson/ToMathlib/RealInterpolation/Main.lean [hunk 2]
```diff
@@ -341,9 +341,11 @@ theorem ton_aeMeasurable_eLpNorm_trunc [TopologicalSpace E₁] [ENormedAddCommMo
   have tone := tc.ton_is_ton
   split_ifs at tone
   · apply aemeasurable_restrict_of_monotoneOn measurableSet_Ioi
-    exact eLpNorm_trunc_mono.comp_monotoneOn tone.monotoneOn
+    exact eLpNorm_trunc_mono.comp_monotoneOn
+        (StrictMonoOn.monotoneOn (StrictMono.strictMonoOn tone _))
   · apply aemeasurable_restrict_of_antitoneOn measurableSet_Ioi
-    exact eLpNorm_trunc_mono.comp_antitoneOn tone.antitoneOn
+    exact eLpNorm_trunc_mono.comp_antitoneOn
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Main.lean]: Does this work (same question for above)?
```suggestion
    exact eLpNorm_trunc_mono.comp_antitoneOn (tone.strictAntiOn  _).antitoneOn

File: Carleson/ToMathlib/RealInterpolation/Main.lean [hunk 3]
```diff
@@ -620,7 +622,8 @@ lemma support_sigma_finite_from_MemLp
 --   exact instSFiniteOfSigmaFinite
 
 lemma combine_estimates₀ {A : ℝ≥0} (hA : 0 < A)
-  [TopologicalSpace E₁] [ENormedAddCommMonoid E₁] --[BorelSpace E₁]
+  [TopologicalSpace E₁] [ENormedAddCommMonoid E₁] [MeasurableSpace E₁] [BorelSpace E₁]
+  [TopologicalSpace.PseudoMetrizableSpace E₁] --[BorelSpace E₁]
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Main.lean]:
```suggestion
  [TopologicalSpace.PseudoMetrizableSpace E₁]

File: Carleson/ToMathlib/RealInterpolation/Minkowski.lean [hunk 4]
```diff
@@ -331,55 +331,57 @@ theorem ton_aeMeasurable (tc : ToneCouple) : AEMeasurable tc.ton (volume.restric
   -- ton is either increasing or decreasing
   have mono_or_anti := tc.ton_is_ton
   split_ifs at mono_or_anti
-  · exact aemeasurable_restrict_of_monotoneOn measurableSet_Ioi mono_or_anti.monotoneOn
-  · exact aemeasurable_restrict_of_antitoneOn measurableSet_Ioi mono_or_anti.antitoneOn
+  · exact aemeasurable_restrict_of_monotoneOn measurableSet_Ioi
```
Comment (grunweg) [inline Carleson/ToMathlib/RealInterpolation/Minkowski.lean]: Same comment as above

**Comment by jim-portegies** [comment]
> Feel free to mark is as a non-draft, and then I'll merge this (even if you haven't fixed all `sorry`s).

@fpvandoorn I'm happy if it can be merged now. `Misc.lean` and `Minkowski.lean` are free of sorries. @grunweg I'll keep working on `Main.lean`

**Comment by grunweg** [comment]
Since CI passes and Floris' intentions above were very clear, let me just merge this myself. Thanks again, and I'm looking forward to future PRs!
